US07932399B2
2-Hydroxy-2-trifluoromethyl-but-3-enoic acid ethyl ester
To a solution of ethyl 3,3,3-trifluoropyruvate (14.2 g) in THF (200 mL) at −78° C. was added vinyl magnesium bromide (84 mL of 1 M in THF) dropwise via addition funnel. The resulting mixture was then warmed to ambient temperature over 2 h. The reaction was quenched by pouring the mixture over ice. To the resulting mixture was then added 2 N HCl, the mixture was extracted with EtOAc, and dried over Na2SO4. After concentration, the resulting crude material was filtered through a plug of silica gel and rinsed with 50% Et2O/hexanes. The resulting mixture was concentrated to yield the title compound as a golden oil.

reactant | ethyl 3,3,3-trifluoropyruvate | 14.2 g | FC(C(C(=O)OCC)=O)(F)F | C5H5F3O3
reactant | vinyl magnesium bromide | 1 M, 84 mL | C(=C)[Mg]Br
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-Hydroxy-2-trifluoromethyl-but-3-enoic acid ethyl ester | C(C)OC(C(C=C)(C(F)(F)F)O)=O | C7H9F3O3
